Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
multivitamins
 
Attending: ___.
 
Chief Complaint:
Right ICA aneurysm
 
Major Surgical or Invasive Procedure:
___ - Pipeline embolization of Right ICA aneurysm.
 
History of Present Illness:
I had the pleasure of seeing your patient, ___, in
___ at the ___
today.  As you may recall, she is a delightful ___ 
female
who is referred to me for right ICA aneurysm.  This initially
came to light after she had a lymph node in her neck that was
involved with MRI.  Followup concerning for a right ICA 
aneurysm.
She was set up for a pipeline and underwent angiogram under
anesthesia on ___.  At that time, it was felt that the
aneurysmal cavernous and procedure is aborted.  We saw her with 
a
CTA on ___.  Continues to be concerned that this is
paraophthalmic lesion in CTA.  With that information in mind and
her young age, we brought her in again to discuss treatment.

I had a long discussion today with Ms. ___ regarding the
new onset of her particular aneurysm.  I explained the only way
to truly understand the location of this aneurysm is with a
direct surgical infection, which is not possible.  For that
reason, because there is a chance it may have intracranial
extension and she is a young age with a long time for potential
rupture risk and there is safe treatment that we can offer that
she likely take care of it.  We think it is prudent to offer
treatment at this time.  I also discussed that continued
observation is reasonable.

She is going to rush in the summer, but would like to proceed in
the ___.  She prefers ___.  We tentatively scheduled her 
for
___.  She has already been platelet function
testing and found to be a Plavix responder.  She does not need
repeat testing.  We can start her with only a few days in 
advance
the procedure.  We discussed the need for dual antiplatelets for
three months.  She is interested in proceeding and we have made
those plans.  We will keep you apprised of her care as things
progress.
 
Past Medical History:
hypothyroidism, diagnosed with ___'s diagnosed in ___
GERD
s/p breast biopsy
s/p lymph node biopsy 
 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
On physical exam, blood pressure 118/60 with a heart rate of 88. 

She is awake and alert.  Cranial nerves are intact.  She has 
full
strength throughout.  She is able to ambulate unaided.

PHYSICAL EXAMINATION ON DISCHARGE:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Pupils:  PERRL 5-4mm bilat

EOM: [x]Full [ ]Restricted

Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No

Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No

Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip

IPQuadHamATEHLGast

[x]Sensation intact to light touch

Angio Groin Site: [x]Soft, no hematoma  [x]Palpable pulses

 
Pertinent Results:
Please see OMR for pertinent lab and imaging results. 
 
Brief Hospital Course:
#Right ICA aneurysm
The patient was taken to the angio suite on the day of 
admission, ___ and underwent a pipeline embolization of 
the right ICA aneurysm. She tolerated the procedure well and 
recovered in the PACU. She was later transferred to the ___ for 
close neurologic monitoring. In ___, she remained 
neurologically and hemodynamically stable. On POD#1, foley and 
arterial line were discontinued. She was ambulating 
independently, pain was controlled and she was tolerating 
regular diet and voiding without difficulty. She was discharged 
home in stable condition on POD#1.
 
Medications on Admission:
Levo-T 7 mcg QOD with 50 mcg QOD, Plavix 75 ___ 325 ___ 
 
Discharge Medications:
1.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Headache 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth Q6H PRN Disp #*12 Capsule Refills:*0 
2.  Acetaminophen 325-650 mg PO Q6H:PRN fever or pain  
3.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
4.  Clopidogrel 75 mg PO/NG DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 
5.  Docusate Sodium 100 mg PO BID  
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q4H PRN Disp #*10 Tablet 
Refills:*0 
7.  Levothyroxine Sodium 50 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ICA aneurysm 
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Discharge Instructions
Dr. ___ 
___ 

Activity
• You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
• Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
• Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
• You make take a shower.

Medications
• Resume your normal medications and begin new medications as 
directed.
• You have been instructed by your doctor to take one ___ a 
day and Plavix. Do not take any other products that have aspirin 
in them. If you are unsure of what products contain Aspirin, ask 
your pharmacist or call our office.
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

Care of the Puncture Site
• You will have a small bandage over the site.
• Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
• Keep the site clean with soap and water and dry it carefully.
• You may use a band-aid if you wish.

What You ___ Experience:
• Mild tenderness and bruising at the puncture site (groin).
• Soreness in your arms from the intravenous lines.
• Mild to moderate headaches that last several days to a few 
weeks.
• Fatigue is very normal
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the puncture 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Constipation
• Blood in your stool or urine
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___